US07582781B2
A solution of 0.7 g (3.6 mmol) of (R)-1-chloro-3-(trimethylsilyloxy)butan-2-one in 5 mL of THF was cooled to 0° C., 5.4 mL (3.8 mmol) of a 0.7 M solution of 2,4-difluorophenylmagnesium bromide prepared by the same method as that in Example 3 was added dropwise thereto over a period of 10 minutes. After the completion of the dropwise addition, stirring was continued for another 5 hours, and 10 mL of a saturated aqueous solution of ammonium chloride was added to stop the reaction. Furthermore, 10 mL of water was added, and extraction was performed with ethyl acetate (20 mL×2). After drying over anhydrous sodium sulfate, concentration was performed under reduced pressure to obtain 1-chloro-2-(2,4-difluorophenyl)butane-2,3-diol. A quantitative analysis was performed by HPLC (under the same HPLC measurement conditions as those in Example 6). As a result, the yield was determined to be 87% ((2S,3R)/(2R,3R)=41/59).

reactant | (R)-1-chloro-3-(trimethylsilyloxy)butan-2-one | 3.6 mmol, 0.7 g | ClCC([C@@H](C)O[Si](C)(C)C)=O | C7H15ClO2Si
reactant | 2,4-difluorophenylmagnesium bromide | FC1=C(C=CC(=C1)F)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | 10 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-chloro-2-(2,4-difluorophenyl)butane-2,3-diol | ClCC(C(C)O)(O)C1=C(C=C(C=C1)F)F | C10H11ClF2O2
